US06414145B1
A suspension of 4-fluoroacetophenone (8.8 ml, 72.4 mmol), paraformaldehyde (2.9 g, 94.1 mmol), dimethylamine hydrochloride (7.8 g, 96.78 mmol) conc. HCl (1 ml) in ethanol (10 ml) was heated under reflux for 3 hrs. The solution was added to acetone (50 ml), allowed to cool and placed in the fridge overnight. The resulting white solid was filtered washed with acetone (100 ml) and dried over P2O5 under vacuum to give 1-(4-fluorophenyl)-3-(N,N-dimethylamino)propanone hydrochloride 7.82 g, (51%).

reactant | 4-fluoroacetophenone | 72.4 mmol, 8.8 ml | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | paraformaldehyde | 94.1 mmol, 2.9 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 96.78 mmol, 1 ml, 7.8 g | Cl.CNC
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4-fluorophenyl)-3-(N,N-dimethylamino)propanone hydrochloride | 7.82 g, 51% | Cl.FC1=CC=C(C=C1)CC(CN(C)C)=O | InChI=1S/C11H14FNO.ClH/c1-13(2)8-11(14)7-9-3-5-10(12)6-4-9;/h3-6H,7-8H2,1-2H3;1H
